US06627767B2
(4-bromophenyl)(cyclohexyl)acetonitrile
A suspension of NaH (1.1 g, 27.5 mmol) in DMF (15 mL) and benzene (30 mL) at 0° C. was treated dropwise with 4-bromophenylacetonitrile (5.0 g, 25.5 mmol), stirred for 45 minutes, treated portionwise with cyclohexyl bromide (3.15 mL, 25.5 mmol), warmed to room temperature, stirred for 90 minutes, treated with water, and extracted with diethyl ether. The extract was washed with water and brine, dried (Na2SO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 5:1 hexanes/ethyl acetate to provide the desired product.

reactant | NaH | 27.5 mmol, 1.1 g | [H-].[Na+]
reactant | 4-bromophenylacetonitrile | 25.5 mmol, 5.0 g | BrC1=CC=C(C=C1)CC#N | C8H6BrN
reactant | cyclohexyl bromide | 25.5 mmol, 3.15 mL | C1(CCCCC1)Br | C6H11Br
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | (4-bromophenyl)(cyclohexyl)acetonitrile | BrC1=CC=C(C=C1)C(C#N)C1CCCCC1 | C14H16BrN
